US08138187B2
1-Butyl-N,N-dimethyl-4-(1H-pyrrolo[2,3-b]pyridin-3-yl)cyclohexanamine hydrochloride, 1 diastereomer (238)
1-Butyl-N,N-dimethyl-4-(1H-pyrrolo[2,3-b]pyridin-3-yl)cyclohexanamine (425 mg, 1.42 mmol) was dissolved in ethyl acetate (100 ml). Me3SiCl (358 μl, 2.84 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×10 ml) and then dried. Example 238 (435 mg, 91%) was a colourless solid

reactant | 1-Butyl-N,N-dimethyl-4-(1H-pyrrolo[2,3-b]pyridin-3-yl)cyclohexanamine | 1.42 mmol, 425 mg | C(CCC)C1(CCC(CC1)C1=CNC2=NC=CC=C21)N(C)C | C19H29N3
reactant | Me3SiCl | 2.84 mmol, 358 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-Butyl-N,N-dimethyl-4-(1H-pyrrolo[2,3-b]pyridin-3-yl)cyclohexanamine hydrochloride | Cl.C(CCC)C1(CCC(CC1)C1=CNC2=NC=CC=C21)N(C)C | InChI=1S/C19H29N3.ClH/c1-4-5-10-19(22(2)3)11-8-15(9-12-19)17-14-21-18-16(17)7-6-13-20-18;/h6-7,13-15H,4-5,8-12H2,1-3H3,(H,20,21);1H
